US07183293B2
(±)-2-[4-({[2-(Benzo[2,1,3]oxadiazol-5-yloxy)-pyridine-3-carbonyl]-amino}-methyl)-3-fluoro-phenoxy]-propionic acid of Formula (5.5.3)
(±)-2-[4-({[2-(Benzo[2,1,3]oxadiazol-5-yloxy)-pyridine-3-carbonyl]-amino}-methyl)-3-fluoro- phenoxy]-propionic acid tert-butyl ester (0.17 g, 0.33 mmol) was stirred in formic acid (5 mL) at room temperature 2 hours. Formic acid was removed in vacuo and the product stored over night under high vacuum to afford a white solid (0.12 g, 80% yield).

reactant | (±)-2-[4-({[2-(Benzo[2,1,3]oxadiazol-5-yloxy)-pyridine-3-carbonyl]-amino}-methyl)-3-fluoro- phenoxy]-propionic acid tert-butyl ester | 0.33 mmol, 0.17 g | C(C)(C)(C)OC(C(C)OC1=CC(=C(C=C1)CNC(=O)C=1C(=NC=CC1)OC1=CC=2C(=NON2)C=C1)F)=O | C26H25FN4O6
solvent | formic acid | 5 mL | C(=O)O | CH2O2
product | (±)-2-[4-({[2-(Benzo[2,1,3]oxadiazol-5-yloxy)-pyridine-3-carbonyl]-amino}-methyl)-3-fluoro-phenoxy]-propionic acid | 0.12 g, 80% yield | N=1ON=C2C1C=CC(=C2)OC2=NC=CC=C2C(=O)NCC2=C(C=C(OC(C(=O)O)C)C=C2)F | C22H17FN4O6
